US08440689B2
B. cis-tert-Butyl 2-(2,2,2-trifluoroacetamido)cyclohexylcarbamate
Triethylamine (3.1 mL, 22.05 mmol, 1.0 eq) was added to a solution of cis-N-(2-aminocyclohexyl)-2,2,2-trifluoroacetamide in EtOH (41 mL, 21.9 mmol). Di-tert-butyl dicarbonate (5.74 g, 26.3 mmol, 1.2 eq) was added in one portion at RT. An ice bath was used to control a modest exotherm and the internal reaction temperature was maintained at <25° C. Once the exotherm subsided the ice bath was removed, and the mixture was stirred at RT for 16 h to give the title compound in EtOH.

reactant | Triethylamine | 22.05 mmol, 3.1 mL, 1.0 eq | C(C)N(CC)CC | C6H15N
reactant | cis-N-(2-aminocyclohexyl)-2,2,2-trifluoroacetamide | N[C@@H]1[C@@H](CCCC1)NC(C(F)(F)F)=O | C8H13F3N2O
reactant | EtOH | 21.9 mmol, 41 mL | CCO | C2H6O
reactant | Di-tert-butyl dicarbonate | 26.3 mmol, 5.74 g, 1.2 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | cis-tert-Butyl 2-(2,2,2-trifluoroacetamido)cyclohexylcarbamate | FC(C(=O)N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)(F)F | C13H21F3N2O3
